Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Paralysis on waking and burning smell
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ gentleman with a past 
medical
history significant for prior psychiatric hospitalizations when
the patient was younger for cutting behavior/depression, now
doing well and  not on any medications currently who presents 
for
an episode of smelling burned toast early this morning which
awoke him from sleep. 

Briefly, the patient states that he has been feeling relatively
well over the past few weeks. He developed a small cough and
runny nose with green mucous production about two weeks ago that
has been lingering. He denies any fevers, chills, or significant
headaches, abdominal pain or other infectious symptoms.
Yesterday, he was out all day with his girlfriend in ___ and
they attended ___ and went out to eat. In the evening, they
returned home and watched tv. The patient went to sleep at about
midnight and knew that he had to wake up at 5-am to go to his AM
shift at ___. 
At approximately 3 am, the patient awoke from sleep. He felt
strange because he knew he was awake but felt paralyzed and 
could
not move his body. After about 2 minutes, he was vocalizing
things and said "in kitchen" which woke his girlfriend up from
sleep. She called out to him but he seemed preoccupied and did
not answer her. The patient remembers this entire event and
states that he soon was able to get up out of bed and was 
focused
on finding where the burned smell was coming from. 
The patient was able to walk to the kitchen where he saw there
was nothing burning. After a few minutes the smell went away and
the patient went back to sleep. He slept through his alarm and
woke up at 6 AM in a panic that he was late for work. The 
patient
was able to get ready quickly and was quite coordinated. He
walked to work down the street. When he got to work he states
that he felt "out of it and off balance while walking". He had a
___ tight headache in the posterior region of his skull. He
denied any other symptoms. His boss and co-worker noted that he
was slower and not himself and urged him to go to the hospital. 

The patient states he also felt slightly feverish this morning
and hot to the touch. No other symptoms. Now he is feeling 
better
but is very anxious about the episode earlier this morning. He
states that when he was a child he had a few episodes of feeling
paralyzed upon waking but has not experienced this for a while.
He has never had any episodes concerning for seizure in the past
such as: ___ , abdominal rising, periods of lost time, 
limb
shaking etc. 

Patient does state he has had a lot of head trauma in the past
growing up, but no recent injury. He played contact football in
high school and had many violent fights during his youth. He
remembers being knocked unconscious one time.  

His headache now has decreased to a ___ after receiving
aspirin. 

On neuro ROS, the pt denies loss of vision, diplopia, 
dysarthria,
dysphagia, lightheadedness, vertigo, tinnitus or hearing
difficulty. Denies difficulties producing or comprehending
speech.  Denies focal weakness, numbness, parasthesiae. No bowel
or bladder incontinence or retention. Denies difficulty with
gait.

On general review of systems, the pt denies recent chills.  No
night sweats or recent weight loss or gain. Denies shortness of
breath.  Denies chest pain or tightness, palpitations.  Denies
nausea, vomiting, diarrhea, constipation or abdominal pain.  No
recent change in bowel or bladder habits.  No dysuria.  Denies
arthralgias or myalgias. Denies rash.

 
Past Medical History:
Per OMR:
Past Psychiatric History:
-ADHD (diagnosed by Pediatrician), trial of Ritalin, stopped 
because made him "feel like a zombie"
-history of depression vs adjustment disorder at ages ___. 
Seen by a therapist at that time. Never initiated on any 
pharmacological treatment
-no past hospitalizations
-no past SA or SIB preceeding two weeks prior
-history of multiple foster homes and some intermittent 
homelessness at ages ___ secondary to mother's alcoholism and 
his removal from household into child protective services and 
the foster care system

Past Medical History: None
 
Social History:
___
Family History:
adoptive mother with history of alcoholism
adoptive brother with PSA
biological parents' history unknown
 
Physical Exam:
Admission Physical Exam:
General: awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx, L ear TM erythematous no pus 
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: no rashes or lesions noted

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 5 to 3mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Patient able to walk on tiptoes and heels without
difficulty.  Able to walk in tandem without difficulty. Romberg
absent.

Discharge Physical Exam:
No change from admission physical. 
 
Pertinent Results:
___ 05:05AM BLOOD WBC-9.1 RBC-5.06 Hgb-14.6 Hct-42.7 MCV-84 
MCH-28.9 MCHC-34.2 RDW-12.6 RDWSD-38.3 Plt ___
___ 11:56AM BLOOD Neuts-56.1 ___ Monos-6.8 Eos-0.2* 
Baso-0.2 Im ___ AbsNeut-5.04 AbsLymp-3.27 AbsMono-0.61 
AbsEos-0.02* AbsBaso-0.02
___ 05:05AM BLOOD Plt ___
___ 05:05AM BLOOD ___ PTT-29.6 ___
___ 05:05AM BLOOD Glucose-86 UreaN-14 Creat-0.9 Na-142 
K-4.3 Cl-99 HCO3-26 AnGap-17*
___ 11:56AM BLOOD ALT-19 AST-17 AlkPhos-89 TotBili-0.4
___ 05:05AM BLOOD Calcium-10.0 Phos-4.8* Mg-2.3
___ 11:56AM BLOOD ASA-10 Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MRI Brain with and without contrast ___
FINDINGS:  
  
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift 
or infarction.  The ventricles and sulci are normal in caliber 
and 
configuration.  Of note, the hippocampi are symmetric and well 
formed.  There 
is no evidence of heterotopic gray matter or cortical 
malformation.  There is 
no abnormal enhancement after contrast administration. 
  
The major intracranial vascular flow voids are maintained.  The 
right frontal 
sinus is hypoplastic, likely congenital.  The remainder the 
paranasal sinuses, 
orbits and mastoid air cells are normal. 
  
IMPRESSION: 
  
  
1. No acute intracranial abnormality. 
2. No structural abnormality to explain the patient's seizure. 
  

 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of depression and 
multiple psychiatric hospitalizations for non-suicidal 
self-injury who presented after one episode of sleep paralysis 
and olfactory hallucination (smelling burned toast) followed by 
vague symptoms of fogginess, disequilibrium, and malaise. He had 
an MRI brain with and without contrast which was normal. He also 
had a routine EEG, which showed no epileptiform activity. He was 
started on Augmentin for possible sinusitis, with some 
symptomatic improvement. He was counseled on sleep hygiene, and 
decreasing energy drink intake. Patient remained stable for 
discharge with outpatient follow up with PCP and referral for 
sleep study, and 10 day total course of augmentin (to be 
finished ___. 

#Sleep Paralysis
#Olfactory Hallucination
His olfactory hallucination - i.e., smelling burned toast was 
initially concerning for a temporal lobe seizure, but an MRI 
revealed no underlying structural abnormality and a routine EEG 
was unremarkable. Furthermore, given the hypnopompic nature of 
the hallucination as well as its association with sleep 
paralysis - which he has had ___ times previously - raised our 
suspicion for narcolepsy vs other R.E.M. sleep disturbance. 
Given his reported concurrent sleep depreciation (he sleepers 
___ hours per night, average ___, we feel that he would 
benefit from visiting with Sleep Medicine for consideration of 
polysomnogram. We ordered a sleep study, to be followed up by 
sleep clinic. 

#Sinusitis
He reported ___ weeks of runny nose, sinus congestion, and cough 
with worsening headache and malaise on the morning of admission. 
He received Augmentin with subsequent dramatic improvement in 
his symptoms. We will give 10 day prescription of Augmentin for 
sinusitis. 

 
Medications on Admission:
No admission medications. 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Moderate  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 10 Days 

Last day ___ 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*19 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Episode of sleep paralysis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 
You were admitted to the hospital for difficulty moving while 
waking up from sleep and abnormal smells. We obtained an MRI of 
your brain, which was normal. We also did an EEG (brain wave 
test) to see if you had a seizure; this test was normal. We 
suspect that your paralysis when waking up could be from not 
sleeping enough, or due to another sleep related disorder such 
as narcolepsy. Therefore, we ordered a sleep study as an 
outpatient for further workup. We also recommended better sleep 
hygiene, such as going to bed at a usual time, and trying to 
sleep at least 6 to 8 hours per night. We also recommend that 
you start seeing a primary care doctor regularly. 
We started you on Augmentin for symptoms of runny nose and 
congestion, headache, and malaise. We will give you a 10 day 
course to complete (last day ___ and ocean spray. If you 
experience any worrisome symptoms, detailed below, please seek 
medical attention. 

It was a pleasure taking care of you and we wish you the best!
Sincerely,
Your ___ Neurology Team 
 
Followup Instructions:
___